US05102905
A 1.55 M solution of butylithium in hexane (6.2 ml, 10 mmol) was added to a stirred solution of A (1.1 g, 5 mmol) in anhydrous tetrahydrofuran (30 ml) maintained at -40° C. under an atmosphere of argon. When the addition was complete, the mixture was stirred for 1 hour at -5° C. Isoamyl nitrate (2 ml, 15 mmol) was then added dropwise to the stirred mixture at -5° C. The reaction mixture was then stirred for a further 2 hours at -5° to 0° C. The mixture (containing lithium 2-(benzo[b]thien-5-ylthio)-2-nitroacetate) was acidified to pH 2 by addition of 2 M hydrochloric acid and was then left for 30 minutes at ambient temperature, after which time evolution of carbon dioxide (produced by decarboxylation of 2-(benzo[b]thien-5-ylthio)-2-nitroacetic acid) had ceased. Water (50 ml) was then added and the mixture was extracted with ethyl acetate. The combined extracts were washed successively with a saturated solution of sodium hydrogen carbonate, then with brine, dried (Na2SO4), and the solvent removed by evaporation. The residual oil was purified by flash chromatography using 75:25 v/v hexane/toluene as eluant to give 5-(nitromethylthio)benzo[b]thiophene as a yellow oil; NMR (90 MHz): 5.5 (s,2H), 7.2-8.0 (m,5H); m/e (electron impact); 225 (M+).

reactant | hexane | 10 mmol, 6.2 ml | CCCCCC | C6H14
reactant | Isoamyl nitrate | 15 mmol, 2 ml | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
reactant | lithium 2-(benzo[b]thien-5-ylthio)-2-nitroacetate | S1C2=C(C=C1)C=C(C=C2)SC(C(=O)[O-])[N+](=O)[O-].[Li+]
reactant | hydrochloric acid | 2 M | Cl | ClH
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Water | 50 ml | O | H2O
product | 5-(nitromethylthio)benzo[b]thiophene | [N+](=O)([O-])CSC1=CC2=C(SC=C2)C=C1 | C9H7NO2S2
